US04465834
Preparation of 1-Methyl-3-piperidyl α-Cyclopentyl-α-phenylethynyl-glycolate
Sodium (~0.05 g.) and 1-methyl-3-piperidinol (4.0 g., 0.035 mole) were refluxed in 250 ml. of dry n-heptane in a reaction flask equipped with a Dean-Stark trap until all of the sodium reacted. Then 6.5 g. (0.024 mole) of ethyl α-cyclopentyl-α-phenylethynylglycolate, undiluted, was added dropwise over a 0.25 hour period. The reaction mixture was subsequently refluxed for 20 hours, and about 30 ml. of solvent was collected toward the end of that period. The reaction mixture was kept overnight. No crystallization occurred during that time, but some tarry material was present and was filtered. Ether (acidic) and chloroform (basic) extracts were made of the filtrate as described previously. The chloroform extract yielded, after the solvent was stripped, 6.2 g. of a red-brown oil. The oil was dissolved in ether and petroleum ether (20°-40°) was added until turbidity was produced. The material was then placed in a freezer for four days and the product precipitated. It weighed 3.2 g., (39%) and melted at about 85° after being filtered and dried. The solid was recrystallized from 20°-40° petroleum ether. The first batch yielded off white crystals melting at 112°-113°.

reactant | Sodium | ~0.05 g | [Na] | Na
reactant | 1-methyl-3-piperidinol | 0.035 mole, 4.0 g | CN1CC(CCC1)O | C6H13NO
reactant | n-heptane | CCCCCCC | C7H16
reactant | ethyl α-cyclopentyl-α-phenylethynylglycolate | 0.024 mole | C1(CCCC1)C(C(=O)OCC)(O)C#CC1=CC=CC=C1 | C17H20O3
solvent | ether | CCOCC | C4H10O
product | 1-Methyl-3-piperidyl α-Cyclopentyl-α-phenylethynyl-glycolate | C1(CCCC1)C(C(=O)OC1CN(CCC1)C)(O)C#CC1=CC=CC=C1 | C21H27NO3
